USRE039128E1
Step 4. 3-(Quinuclidin-4-yl)-acrylic acid hydrochloride
Ethyl 3-(quinuclidin-4-yl)-acrylate (0.7 g, 0.0033 moles) was heated under reflux in 5 molar hydrochloric acid (30 ml) for 18 hours, cooled then concentrated in vacuo to an oil. Trituration with acetone gave the title compound as an off-white solid 0.43 g (60%). MS (+ve ion electrospray) m/z 182 (MH+, 100%).

reactant | Ethyl 3-(quinuclidin-4-yl)-acrylate | 0.0033 moles, 0.7 g | N12CCC(CC1)(CC2)C=CC(=O)OCC | C12H19NO2
reactant | hydrochloric acid | 5 molar, 30 ml | Cl | ClH
product | 3-(Quinuclidin-4-yl)-acrylic acid hydrochloride | 0.43 g, 60% | Cl.N12CCC(CC1)(CC2)C=CC(=O)O | InChI=1S/C10H15NO2.ClH/c12-9(13)1-2-10-3-6-11(7-4-10)8-5-10;/h1-2H,3-8H2,(H,12,13);1H
